US05576340
2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(4-chlorophenyl)ethanol (Compound No. 3-12)
Following a procedure similar to that described in Example 12, but using 2 g of 2-amino-1-(4-chlorophenyl)ethanol (prepared as described in Preparation 12), 3.11 g of methyl 4-(2-oxopropoxy)phenylacetate (prepared as described in Preparation 3), 60 ml of benzene, 50 ml of absolute methanol and 2.7 g of sodium cyanoborohydride, 1.54 g of the title compound were obtained as crystals, melting at 78°-79° C.

reactant | 2-amino-1-(4-chlorophenyl)ethanol | 2 g | NCC(O)C1=CC=C(C=C1)Cl | C8H10ClNO
reactant | methyl 4-(2-oxopropoxy)phenylacetate | 3.11 g | O=C(COC1=CC=C(C=C1)CC(=O)OC)C | C12H14O4
reactant | benzene | 60 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 2.7 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(4-chlorophenyl)ethanol | 1.54 g | COC(=O)CC1=CC=C(OCC(C)NCC(O)C2=CC=C(C=C2)Cl)C=C1 | C20H24ClNO4
